Name:  ___.                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
tramadol
 
Attending: ___.
 
Major Surgical or Invasive Procedure:
None

attach
 
Pertinent Results:
ADMISSION LABS
===============
___ 10:10PM URINE Color-Straw Appear-CLEAR Sp ___
___ 10:10PM URINE Blood-SM* Nitrite-NEG Protein-30* 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NORMAL pH-7.0 
Leuks-MOD*
___ 10:10PM URINE RBC-16* WBC-69* Bacteri-NONE Yeast-NONE 
Epi-<1
___ 11:20PM OTHER BODY FLUID FluAPCR-NEG FluBPCR-NEG
___ 12:30AM BLOOD WBC-7.4 RBC-4.23 Hgb-12.5 Hct-38.9 MCV-92 
MCH-29.6 MCHC-32.1 RDW-13.3 RDWSD-45.0 Plt ___
___ 12:30AM BLOOD ___ PTT-29.4 ___
___ 12:30AM BLOOD Glucose-115* UreaN-19 Creat-0.7 Na-140 
K-4.3 Cl-99 HCO3-26 AnGap-15
___ 12:30AM BLOOD Calcium-9.7 Phos-3.3 Mg-1.2*

OTHER RELEVANT LABS
===================
___ 10:10 pm URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION. 
      ENTEROCOCCUS SP..    >100,000 CFU/mL. 
         PREDOMINATING ORGANISM INTERPRET RESULTS WITH CAUTION. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             ENTEROCOCCUS SP.
                             |   
AMPICILLIN------------   <=2 S
NITROFURANTOIN--------  <=16 S
TETRACYCLINE----------  =>16 R
VANCOMYCIN------------     2 S

IMAGING/STUDIES
================
TTE ___
CONCLUSION:
The left atrial volume index is normal. There is no evidence for 
an atrial septal defect by 2D/color
Doppler. The estimated right atrial pressure is ___ mmHg. There 
is focal non-obstructive hypertrophy of
the basal septum with a normal cavity size. There is normal 
regional and global left ventricular systolic
function. Quantitative biplane left ventricular ejection 
fraction is 67 % (normal 54-73%). Left
ventricular cardiac index is high (>4.0 L/min/m2). There is no 
resting left ventricular outflow tract
gradient. No ventricular septal defect is seen. Normal right 
ventricular cavity size with normal free wall
motion. Tricuspid annular plane systolic excursion (TAPSE) is 
normal. The aortic sinus diameter is
normal for gender with a normal ascending aorta diameter for 
gender. The aortic arch diameter is normal
with a normal descending aorta diameter. There is no evidence 
for an aortic arch coarctation. The aortic
valve leaflets (3) are mildly thickened. There is no aortic 
valve stenosis. The increased velocity is due to
high stroke volume. There is no aortic regurgitation. The mitral 
valve leaflets are mildly thickened with
no mitral valve prolapse. There is mild [1+] mitral 
regurgitation. The pulmonic valve leaflets are normal.
The tricuspid valve leaflets appear structurally normal. There 
is physiologic tricuspid regurgitation. The
estimated pulmonary artery systolic pressure is normal. There is 
no pericardial effusion.
IMPRESSION: Focal left ventricular basal septal hypertrophy with 
normal cavity size and
regional/global biventricular systolic function. Mild mitral 
regurgitation. Normal estimated PASP.
No structural cardiac cause of syncope identified. Unable to 
perform valsalva due to language
barrier.

DISCHARGE LABS
===============
___ 04:59AM BLOOD WBC-5.4 RBC-3.79* Hgb-11.2 Hct-35.1 
MCV-93 MCH-29.6 MCHC-31.9* RDW-13.2 RDWSD-45.1 Plt ___
___ 04:59AM BLOOD Glucose-104* UreaN-20 Creat-0.6 Na-142 
K-4.0 Cl-97 HCO3-30 AnGap-15
___ 04:59AM BLOOD Calcium-9.1 Phos-3.8 Mg-1.5*
 
Brief Hospital Course:
BRIEF SUMMARY OF ADMISSION 
==========================
Ms. ___ is an ___ yo ___ woman with a past 
medical history of hypertension, gout, and nephrolithiasis who 
presented with acute on chronic changes in mental status, likely 
___ UTI superimposed on dementia. 

TRANSITIONAL ISSUES
===================
[] Complete 3 day course of antibiotics (cefpodoxime) on ___ 
[] If having recurrent UTI symptoms, would treat for 
enterococcus (is ampicillin, nitrofurantoin, and vancomycin 
sensitive)
[] Consider referral for cognitive testing given concerns about 
dementia
[] ___ recommending ___ monitoring given concerns about 
cognitive functioning, consider evaluation for placement in a 
facility where she can be monitored ___ 
[] Ensure up to date with age appropriate cancer screening given 
report of weight loss
[] Unfortunately due to insurance status we were unable to set 
up the patient with home services. Please help family get 
insurance which covers services in ___.

ACUTE ISSUES:
=============
# Suspected uncomplicated cystitis 
# Altered Mental Status
Patient presented with increased confusion according to family, 
in the setting of subacute decline over last several months as 
well as Ativan administration prior to arrival. On exam patient 
without focal neurologic deficits and CT imaging of head without 
evidence of lesions, bleeding to explain change in mental 
status. However there is evidence of microangiopathic changes 
which raises concern for vascular dementia given chronic changes 
noted by family or stroke pathology. UA notable for leukocyte 
esterase, WBC but no nitrites present. Overall suspect given 
history of declining memory she likely has underlying dementia 
and acute change in mentation related to underlying infection or 
lorazepam use. Patient was treated with 3 doses of CTX in house 
(Received 2x ___, 1x ___. She was given cefpodoxime for 1 
additional day to complete 3 day course for uncomplicated 
cystitis. UCx was contaminated with mixed flora, and also 
growing enterococcus. Given clinical improvement in CTX, it was 
felt that it was adequately covering pathogen and that 
completing course with cefpodoxime was appropriate. Patient back 
to baseline prior to discharge. 

# s/p unwitnessed fall
Unclear details surrounding recent fall at home prior to 
admission. Trauma evaluation without evidence of intracranial 
bleeding, neck injury. Suspect likely mechanical fall. Patient 
noted to have poor PO intake so hypovolemia and vasovagal 
pathology on differential. Orthostatic vital signs were normal, 
now back on home BP meds. Telemetry was without evidence of 
arrhythmia. TTE was obtained given unknown hx and murmur on 
exam, but was unrevealing for etiology of syncope. ___ evaluated 
patient but unfortunately due to insurance status we were unable 
to set up the patient with home services. 

# Abnormal Weight Loss
Family reports 30lb weight loss since ___. Likely poor PO 
intake in setting of patient's increasing difficulty with ADLs. 
Should ensure that she is up to date on all cancer screening as 
an outpatient. Home mirtazapine was initially held but restarted 
prior to discharge. 

# Left arm edema
No fracture noted on x-ray, arm soft but mildly edematous, 
suspect related to fall at home. No focal tenderness noted. 
Acetaminophen for pain control PRN.

CHRONIC ISSUES:
===============
# Hypertension: Initially held home Losartan, HCTZ but restarted 
prior to discharge 

# Chronic Pain: Continued home gabapentin

CORE MEASURES
=============
#CODE: Full code presumed
#CONTACT: 
Name of health care proxy: ___ 
___: grandaughter 
Cell phone: ___ 

>30 minutes spent on discharge planning and coordination of care

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Allopurinol ___ mg PO DAILY 
2. Aspirin 81 mg PO DAILY 
3. Calcium Carbonate 600 mg PO DAILY 
4. Vitamin D 400 UNIT PO DAILY 
5. Gabapentin 300 mg PO TID 
6. Ferrous Sulfate 325 mg PO DAILY 
7. Mirtazapine 15 mg PO QHS 
8. Denosumab (Prolia) 60 mg SC Q6 MONTHS 
9. Valsartan 160 mg PO DAILY 
10. Hydrochlorothiazide 12.5 mg PO DAILY 

 
Discharge Medications:
1.  Cefpodoxime Proxetil 200 mg PO Q12H Duration: 1 Day 
RX *cefpodoxime 200 mg 1 tablet(s) by mouth twice a day Disp #*2 
Tablet Refills:*0 
2.  Allopurinol ___ mg PO DAILY  
3.  Aspirin 81 mg PO DAILY  
4.  Calcium Carbonate 600 mg PO DAILY  
5.  Denosumab (Prolia) 60 mg SC Q6 MONTHS  
6.  Ferrous Sulfate 325 mg PO DAILY  
7.  Gabapentin 300 mg PO TID  
8.  Hydrochlorothiazide 12.5 mg PO DAILY 
RX *hydrochlorothiazide 12.5 mg 1 tablet(s) by mouth once a day 
Disp #*30 Tablet Refills:*0 
9.  Mirtazapine 15 mg PO QHS  
10.  Valsartan 160 mg PO DAILY 
RX *valsartan 160 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0 
11.  Vitamin D 400 UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSES
==================
Urinary tract infection 
Toxic Metabolic Encephalopathy 

SECONDARY DIAGNOSES
=====================
Vascular Dementia 
HTN
Gout

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 
 
It was a pleasure caring for you at ___ ___ 
___.  
 
WHY WAS I IN THE HOSPITAL?  
 - You were admitted for confusion and a fall at home 
 
WHAT HAPPENED TO ME IN THE HOSPITAL?  
 - While you were in the hospital, we found that you had a 
urinary tract infection that we treated you for 

 - We did x-rays of your wrist and did not find any fractures 

 - You were improved so we felt it was safe for you to go home 
with your family 
 
WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?  
 - Continue to take all your medicines and keep your 
appointments.  
 
We wish you the best!  
 
Sincerely,  
Your ___ Team 
 
Followup Instructions:
___